US05962458
A mixture of 7-(4-pyridylthio)-3,4-dihydroquinazolin-4-one (100 mg, 0.4 mmol), thionyl chloride (20 ml) and DMF (0.1 ml) was heated at reflux for 1.5 hours. The volatiles were removed by evaporation and the residue azeotroped with toluene. A solution of 3-hydroxy-4-methylaniline (53 mg, 0.04 mmol) in isopropanol (10 ml) was added to the solid residue and the mixture was heated at reflux for 2 hours. The mixture was allowed to cool and the precipitated product collected by filtration, washed with isopropanol and dried to give 4-(3-hydroxy4-methylanilino)-7-(4-pyridylthio)quinazoline hydrochloride(103 mg, 73%).

reactant | 7-(4-pyridylthio)-3,4-dihydroquinazolin-4-one | 0.4 mmol, 100 mg | N1=CC=C(C=C1)SC1=CC=C2C(NC=NC2=C1)=O | C13H9N3OS
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | 3-hydroxy-4-methylaniline | 0.04 mmol, 53 mg | OC=1C=C(N)C=CC1C | C7H9NO
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-(3-hydroxy4-methylanilino)-7-(4-pyridylthio)quinazoline hydrochloride | 103 mg, 73% | Cl.OC=1C=C(NC2=NC=NC3=CC(=CC=C23)SC2=CC=NC=C2)C=CC1C | InChI=1S/C20H16N4OS.ClH/c1-13-2-3-14(10-19(13)25)24-20-17-5-4-16(11-18(17)22-12-23-20)26-15-6-8-21-9-7-15;/h2-12,25H,1H3,(H,22,23,24);1H
